US05747597
593 parts of triethylene glycol, 206 parts of diethylene glycol, 305 parts of phthalic anhydride, 490 parts of 3-methyltetrahydrophthalic anhydride and 0.158 parts of toluhydroquinone were placed in a 2 liter flask containing four openings equipped with a thermometer, stirrer, inert gas introduction opening, and reflux condenser, respectively. The mixture was heated to 205° C. under a nitrogen atmosphere and allowed to react for 15 hours; upon reaching a solid acid value of 15, the mixture was cooled to 120° C. followed by addition of 87 parts of maleic anhydride. The temperature was then raised to 190° C. and allowed to react for 5 hours until reaching a solid acid value of 24, at which point it was cooled to 160° C. After 148 parts of CARDURA E-10 (an epoxy compound produced by Shell Chemicals Co., Ltd.) were added and allowed to react for 3 hours at 130° C., 1078 parts of dipropylene glycol monomethylether methacrylate were then added to produce a resin composition with a nonvolatile content of 60.0%, an acid value of 1.1 and a Gardner viscosity of S-T. 80 parts of the resin of Example 10 were then added to 20 parts of the above resin to produce a resin composition with a nonvolatile content of 60.0%, an acid value of 2.9 and a Gardner viscosity of P-Q. The resultant resin composition was then placed through the same evaluation tests as in Example 7, and the results are shown in Table 2.

reactant | triethylene glycol | C(COCCOCCO)O | C6H14O4
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 3-methyltetrahydrophthalic anhydride | CC1C2C(C(=O)OC2=O)C=CC1 | C9H10O3
reactant | toluhydroquinone | C=1(C(C)=CC(O)=CC1)O | C7H8O2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | CARDURA E-10 | CCCCCCC(C)(C)C(=O)OCC1CO1 | C13H24O3
